* REVOLUTIONARY TECHNOLOGY COMPANY & UNIVERSITY OF WASHINGTON DEPARTMENT OF PHYSICS
* SYSTEM NETLIST MASTER SCHEMATIC: master_vehicle_harness.cir (Unified Cockpit Matrix)
* COMPLIANCE PROTOCOLS: Rule #1 (3oz Copper Bus) / Rule #2 (0.5mm Bilateral Guard Ground Rings)
* ====================================================================================

.SUBCKT MASTER_COPO_HARNESS VCC_12V_AVIONICS GND_GUARD_SHIELD BUS_32BIT_OUT
+ PEDAL_SIG_A PEDAL_SIG_B IRIS_CAM_DATA_P IRIS_CAM_DATA_N BOSE_AMP_H BOSE_AMP_L

* --- SECTION 1: HIGH-ACCURACY DUAL-CHANNEL PEDAL ENCODER PINOUTS ---
* J1_Pedal_Conn: Pin 1 = 5V_ISO | Pin 2 = Chan_Alpha | Pin 3 = Chan_Beta | Pin 4 = GND
XU1_Pedal_Encoder VCC_5V_ISO PEDAL_SIG_A PEDAL_SIG_B GND_GUARD_SHIELD INFINEON_TLE5012B
* BILATERAL GUARD ISOLATION SHIELDING: Traces pedal_sig_a and pedal_sig_b are flanked symmetrically
R_GUARD_PEDAL_L PEDAL_SIG_A GND_GUARD_SHIELD 10Meg
R_GUARD_PEDAL_R PEDAL_SIG_B GND_GUARD_SHIELD 10Meg

* --- SECTION 2: BIOMETRIC OCULAR EYE-TRACKING CAMERA PORTS ---
* Center Wheel Hub Interface Array (MIPI High-Speed Low-Noise Impedance Mapped Lines)
XU2_Eye_Camera VCC_3V3_ISO IRIS_CAM_DATA_P IRIS_CAM_DATA_N GND_GUARD_SHIELD VISION_PROC_CORE
R_GUARD_CAM_L IRIS_CAM_DATA_P GND_GUARD_SHIELD 10Meg
R_GUARD_CAM_R IRIS_CAM_DATA_N GND_GUARD_SHIELD 10Meg

* --- SECTION 3: BOSE ACOUSTIC SPEECH AMPLIFIER BRIDGE LINES ---
* Class-D high-efficiency low-noise audio distribution network (Vocal band: 300Hz-3400Hz)
XU3_Bose_Amplifier VCC_12V_AVIONICS BOSE_AMP_H BOSE_AMP_L GND_GUARD_SHIELD BOSE_CLASS_D_AMP
R_GUARD_AUDIO_L BOSE_AMP_H GND_GUARD_SHIELD 10Meg
R_GUARD_AUDIO_R BOSE_AMP_L GND_GUARD_SHIELD 10Meg

* --- SECTION 4: 16-STATE HIGH-CURRENT POWER ROUTING BUS TARGETS ---
* Connects the main 800V DC solid copper busbar relays to the 32-Bit Control Register Matrix
XU4_Contactor_Gate VCC_12V_AVIONICS BUS_32BIT_OUT GND_GUARD_SHIELD HEV_TELETANK_MUX_GATE
.TRACK_WEIGHT Heavy_3oz_Traction_Bus LAYER=F.Cu WEIGHT=3oz WIDTH=5.0mm

.ENDS MASTER_COPO_HARNESS
